US07491735B2
To a solution of oxazole (420 mg, 6.08 mmol) in THF (15 mL) was added BH3-THF (1.0M in THF, 6.69 mL, 6.69 mmol). The mixture was stirred at room temperature for 1 hour. After cooling to −78° C., t-BuLi (1.7M, 4.29 mL, 7.30 mmol) was introduced to the mixture and stirred at this temperature for 30 min. 4-Formyl-piperidine-1-carboxylic acid tert-butyl ester (1.30 g, 6.08 mmol) was added dropwise and the mixture was stirred at −78° C. for 3 hours. Work-up and purification gave 4-(hydroxy-oxazol-2-yl-methyl)-piperidine-1-carboxylic acid tert-butyl ester as a white foam (1.227 g, 71%).

reactant | oxazole | 6.08 mmol, 420 mg | O1C=NC=C1 | C3H3NO
reactant | BH3-THF | 6.69 mmol, 1.0M, 6.69 mL | B.C1CCOC1
reactant | t-BuLi | 7.30 mmol, 1.7M, 4.29 mL | [Li]C(C)(C)C
reactant | 4-Formyl-piperidine-1-carboxylic acid tert-butyl ester | 6.08 mmol, 1.30 g | C(C)(C)(C)OC(=O)N1CCC(CC1)C=O | C11H19NO3
solvent | THF | 15 mL | C1CCOC1 | C4H8O
product | 4-(hydroxy-oxazol-2-yl-methyl)-piperidine-1-carboxylic acid tert-butyl ester | 1.227 g, 71% | C(C)(C)(C)OC(=O)N1CCC(CC1)C(C=1OC=CN1)O | C14H22N2O4
